US07488823B2
Step C: 2-Amino-5-hydroxy-4-methoxy-benzoic acid
5-Hydroxy-4-methoxy-2-nitro-benzoic acid (18 g, 84.51 mmol, J. Indian Chem. Soc. 1970, 70, 925) is suspended in MeOH (1 L) and treated PtO2 (100 mg). The flask is flushed with hydrogen gas and the reaction mixture is stirred under hydrogen atmosphere (45 psi) for 4 hours. The reaction mixture is filtered through a celite plug and the solvent is removed under reduced pressure. The crude product is redissolved in DCM, dried (MgSO4) and concentrated to yield 15.06 g (82.3 mmol, 97%) of the desired product.

reactant | 5-Hydroxy-4-methoxy-2-nitro-benzoic acid | 84.51 mmol, 18 g | OC=1C(=CC(=C(C(=O)O)C1)[N+](=O)[O-])OC | C8H7NO6
solvent | MeOH | 1 L | CO | CH4O
catalyst | PtO2 | 100 mg | O=[Pt]=O
product | 2-Amino-5-hydroxy-4-methoxy-benzoic acid | 82.3 mmol, 15.06 g, 97% | NC1=C(C(=O)O)C=C(C(=C1)OC)O | C8H9NO4
